data/mechanism_extracts/OrgLett/10.1021_acs.orglett.9b00771.json
{"doi": "10.1021_acs.orglett.9b00771", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical three-component 1,2-bromoesterification of alkenes with carboxylic acids and N-bromosuccinimide via TEMPO-mediated anodic oxidation forming a bromonium intermediate.", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of TEMPO to TEMPO+ which activates NBS toward Br+ transfer to the alkene; cathode reduces protons to H2.", "key_intermediates": [{"name": "TEMPO+ oxoammonium cation (mediator)", "smiles": "CC1(C)CCCC(C)(C)[N+]1=O", "role": "reactive"}, {"name": "TEMPO nitroxyl radical (resting mediator)", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "role": "resting_state"}, {"name": "Cyclic bromonium ion of alkene", "smiles": null, "role": "transient"}, {"name": "β-bromoalkyl ester product", "smiles": null, "role": "reactive"}], "electron_flow": "TEMPO is oxidized at the anode to TEMPO+, which activates NBS to deliver Br+ to the alkene, generating a cyclic bromonium ion; carboxylic acid opens the bromonium and deprotonation gives the β-bromo ester, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "other", "observation": "Used as a 50 mol% redox mediator/initiator; oxidized at the anode to TEMPO+ which activates NBS."}], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Mechanism is proposed without explicit radical trapping, CV, KIE, or DFT studies; TEMPO is invoked as a redox mediator rather than a radical trap. Pathway is cationic (bromonium) rather than radical, despite the electrochemical oxidative conditions."}
